US06117869
When in the procedure of Example 1, Step (b), thianthrene-2-sulfonyl chloride is replaced by phenoxathiine-2-sulfonyl chloride and (L)-valine-t-butyl ester is replaced with (L)-tryptophan-t-butyl ester, (S)-3-(1H-indol-3-yl)-2-(phenoxathiine-2-sulfonylamino)-propionic acid is obtained; mp 120-130° C.

reactant | thianthrene-2-sulfonyl chloride | C1=C(C=CC=2SC3=CC=CC=C3SC12)S(=O)(=O)Cl | C12H7ClO2S3
reactant | phenoxathiine-2-sulfonyl chloride | C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)Cl | C12H7ClO3S2
reactant | (L)-valine-t-butyl ester | C(C)(C)(C)OC([C@@H](N)C(C)C)=O | C9H19NO2
reactant | (L)-tryptophan-t-butyl ester | C(C)(C)(C)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C15H20N2O2
product | (S)-3-(1H-indol-3-yl)-2-(phenoxathiine-2-sulfonylamino)-propionic acid | N1C=C(C2=CC=CC=C12)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=2SC3=CC=CC=C3OC2C=C1 | C23H18N2O5S2
